US03954774
4,5-Dimethoxy-7-nitrovinylindane
To a 100 ml 3-necked round bottom flask fitted with a condenser and thermometer and magnetically stirred, was added 12.97 g (0.063 mole) of 4,5-dimethoxy-7-indanaldehyde, 3.00 g (0.039 mole) of ammonium acetate, 13.0 ml (0.292 mole) of CH3NO2 and 40 ml of glacial acetic acid. This mixture was heated for 1 to 2 hours at 112° C. As the reaction solution began to cool the entire solution solidified. After cooling in an ice bath and removing the solvent by filtration, the solid 4,5-dimethoxy-7-nitrovinylindane was washed with a small volume of acetic acid giving fine yellow needles (9.55 g) after thorough drying. The filtrate was poured into 300 ml of ice and water from which precipitated a slightly gummy, yellow-brown solid. This gave an additional 1.43 g of crystalline solid after drying and crystallizing from methanol giving a total yield of 10.98 g (70 percent). An analytical sample melted at 128°- 130° C.

reactant | 4,5-dimethoxy-7-indanaldehyde | 0.063 mole, 12.97 g | COC1=C2CCCC2=C(C=C1OC)C=O | C12H14O3
reactant | ammonium acetate | 0.039 mole, 3.00 g | C(C)(=O)[O-].[NH4+]
reactant | CH3NO2 | 0.292 mole, 13.0 ml | C[N+](=O)[O-] | CH3NO2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dimethoxy-7-nitrovinylindane | 1.43 g | COC1=C2CCCC2=C(C=C1OC)C=C[N+](=O)[O-] | C13H15NO4
